US07582643B2
Step D: (3R)-1-(6-Methyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl)pyrrolidin-3-amine Trihydrochloride
tert-Butyl[(3R)-1-(6-methyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl)pyrrolidin-3-yl]carbamate (10.0 g, 30.0 mmol) was dissolved in methanol (40 mL) and cooled to 0° C. To this was added a solution of 4 N hydrochloric acid in dioxane (80 mL). The mixture was allowed to warm to room temperature and then stirred at room temperature for 1 hour and then evaporated to dryness. The residue was boiled with ethanol (100 mL) then cooled to 0° C. and the resulting precipitate was filtered off. This gave the title compound (6.99 g, yield 69%) as a pale pink hygroscopic solid. LCMS (ES+) M+H 234. 1H NMR (DMSO-d6) 2.12 (m, 1H) 2.30 (m, 1H) 2.86-2.94 (s+m, 4H) 3.14-3.24 (m, 1H) 3.37-3.46 (m, 1H) 3.56-3.77 (br m, 6H) 3.78 (br m, 1H) 4.13 (dd, J=14.6, 8.3 Hz, 1H) 4.35 (d, J=14.0 Hz, 1H) 8.28 (s, 1H) 8.52 (br s, 3H) 11.71 (br s, 1H). LRMS M+H 234.

reactant | tert-Butyl[(3R)-1-(6-methyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl)pyrrolidin-3-yl]carbamate | 30.0 mmol, 10.0 g | C(C)(C)(C)OC(N[C@H]1CN(CC1)C=1N=CC2=C(N1)CCN(C2)C)=O | C17H27N5O2
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | (3R)-1-(6-Methyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl)pyrrolidin-3-amine Trihydrochloride | 6.99 g, yield 69% | Cl.Cl.Cl.CN1CC2=C(N=C(N=C2)N2C[C@@H](CC2)N)CC1 | InChI=1S/C12H19N5.3ClH/c1-16-4-3-11-9(7-16)6-14-12(15-11)17-5-2-10(13)8-17;;;/h6,10H,2-5,7-8,13H2,1H3;3*1H/t10-;;;/m1.../s1
